US07498440B2
1-(3-{[3-(diethylamino)phenyl]oxy}propyl-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0257 g, 0.0876 mmol) and 3-[(3-bromopropyl)oxy]-N,N-diethylaniline (0.0314 g, 0.110 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.032.0 g, 63.0%). EI-MS m/z 500(M+) Rt (1.58 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.0876 mmol, 0.0257 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 3-[(3-bromopropyl)oxy]-N,N-diethylaniline | 0.110 mmol, 0.0314 g | BrCCCOC=1C=C(N(CC)CC)C=CC1 | C13H20BrNO
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 3-{[3-(diethylamino)phenyl]oxy}propyl-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 63.0% | [Br-].C(C)N(C=1C=C(C=CC1)OCCC[N+]12CCC(CC1)(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O)CC | InChI=1S/C33H43N2O2.BrH/c1-3-34(4-2)30-17-11-18-31(27-30)37-26-12-22-35-23-19-32(20-24-35,21-25-35)33(36,28-13-7-5-8-14-28)29-15-9-6-10-16-29;/h5-11,13-18,27,36H,3-4,12,19-26H2,1-2H3;1H/q+1;/p-1
